US07476484B2
Reaction Product with Glycidyl Methacrylate
35.51 parts by weight of dimethylolpropionic acid (DMPA), 3.95 parts by weight of polyethylene glycol 300 (POE300) and 212.81 g of the solvent methoxypropyl acetate (MPA) are introduced into a reactor and suspended with stirring. 1 percent by weight, based on the weight of the diols, of the catalyst dibutyltin dilaurate (DBTL) is then added. The reactor is placed under an inert atmosphere by evacuation and flushing with nitrogen. The mixture initially introduced into the reactor is heated to 80° C., and 60.54 parts by weight of isophorone diisocyanate (IPDI) are added dropwise over a period of 2 hours to the initially introduced mixture in the reactor under slightly excess nitrogen pressure. After the end of the addition of IPDI, the reaction solution is allowed to continue reacting at 80° C. until the concentration of the diisocyanate has decreased to less than 0.02 mol/kg. The concentration of the diisocyanate in a sample taken is determined indirectly after the addition of an excess of butylamine by titration with HCl. Once the concentration of the diisocyanate has decreased to 0.02 mol/kg, 88.73 g of dipropylene glycol methyl ether are added and the reaction is allowed to continue for a further hour at 80° C. Thereafter, the temperature is increased to 95° C. and air is introduced under the reaction surface. After the addition of 0.2% by weight of di-tert-butyl-p-cresol and 0.2% by weight of Cr—Hex—CEM, 17.5 parts by weight of glycidyl methacrylate are added dropwise over a period of 40 minutes. After the end of the addition, the reaction solution is allowed to continue reacting for a further 10 hours at 90° C. The polymer solution thus obtained is characterized by acid titration (0.42 mol/kg), epoxide titration (0.04 mol/kg), GPC (Mw: 25 000 g/mol; D: 5.19) and solids analysis (49%).

reactant | dimethylolpropionic acid | C(O)C(C(=O)O)(C)CO | C5H10O4
reactant | methoxypropyl acetate | C(C)(=O)OCCCOC | C6H12O3
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | Glycidyl Methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
